* C:\Users\kadhi\OneDrive\Desktop\amux\verilogLearning\Leaky-Integrate-Fire---SNN-model-on-FPGA\LTSpice_sim\full_frontend\frontend.asc
* Generated by LTspice 26.0.2 for Windows.
V_supply Vdd 0 1.88V
V_bias_src V_bias 0 0.65V
V_ref V_ref 0 0.9V
V_ecg ECG_in 0 PWL file=ecg_beat.txt
V§CLK_s CLK_s 0 PULSE(0 1.88 0 1n 1n 1m 22.222m)
V§RST RST 0 PULSE(0 1.88 0 1n 1n 2m 550m)
V§WIN_QRS WIN_QRS 0 PULSE(0 1.88 222.222m 1n 1n 111.111m 550m)
V§WIN_PRE WIN_PRE 0 PULSE(0 1.88 111.111m 1n 1n 111.111m 550m)
V§WIN_POST WIN_POST 0 PULSE(0 1.88 333.333m 1n 1n 138.889m 550m)
X§LP_FAST 0 V_bias Vdd ECG_in LP05_out lp_fast
X§LP_SLOW 0 V_bias Vdd ECG_in LP08_out lp_slow
X§HP_FAST 0 V_bias Vdd ECG_in V_ref HP08_out hp_fast
X§HP_SLOW 0 V_bias Vdd ECG_in V_ref HP015_out hp_slow
X§DERIV2 0 V_bias Vdd ECG_in V_ref D2_out second_deriv_tuned
X§BANDPASS 0 LP08_out LP05_out V_bias Vdd BP_out ota_bandpass
X§RECTIFIER 0 V_bias Vdd HP08_out V_ref RECT_out precision_fullwave
X§SH_RAW 0 CLK_s V_bias ECG_in Vdd SH1_out sample_and_hold
X§SH_LP05 0 CLK_s V_bias LP05_out Vdd SH4_out sample_and_hold
X§SH_LP008 0 CLK_s V_bias LP08_out Vdd SH5_out sample_and_hold
X§SH_HP08 0 CLK_s V_bias HP08_out Vdd SH2_out sample_and_hold
X§SH_HP015 0 CLK_s V_bias HP015_out Vdd SH3_out sample_and_hold
X§SH_D2 0 CLK_s V_bias D2_out Vdd SH8_out sample_and_hold
X§SH_BP 0 CLK_s V_bias BP_out Vdd SH6_out sample_and_hold
X§SH_RECT 0 CLK_s V_bias RECT_out Vdd SH7_out sample_and_hold
X§INTEG_QRS 0 RST V_bias Vdd ECG_in V_ref WIN_QRS E_QRS gated_integrator
X§INTEG_PRE 0 RST V_bias Vdd ECG_in V_ref WIN_PRE E_PRE gated_integrator
X§INTEG_POST 0 RST V_bias Vdd ECG_in V_ref WIN_POST E_POST gated_integrator
X§PEAK_QRS 0 RST V_bias ECG_in Vdd WIN_QRS V_MAX gated_peak
X§VALLEY_QRS 0 RST V_bias Vdd ECG_in WIN_QRS V_MIN gated_valley
X§AMP_QRS 0 V_bias V_MAX V_MIN Vdd V_ref V_AMP qrs_amp

* block symbol definitions
.subckt lp_fast AGND V_bias Vdd Vin Vout
C1 AGND Vout 50n
X§X1 Vdd Vin Vout V_bias Vout AGND ota_core
.ends lp_fast

.subckt lp_slow AGND V_bias Vdd Vin Vout
C1 AGND Vout 420n
X§X1 Vdd Vin Vout V_bias Vout AGND ota_core
.ends lp_slow

.subckt hp_fast AGND V_bias Vdd Vin Vref V_out
X§ota_core Vdd Vref V_out V_bias V_out AGND ota_core
C1 Vin V_out 22n
.ends hp_fast

.subckt hp_slow AGND V_bias Vdd Vin Vref V_out
X§ota_core Vdd Vref V_out V_bias V_out AGND ota_core
C1 Vin V_out 210n
.ends hp_slow

.subckt second_deriv_tuned AGND V_bias Vdd Vin Vref V_d2
X§HP1 AGND V_bias Vdd Vin Vref N001 hp_deriv
X§HP2 AGND V_bias Vdd N001 Vref V_d2 hp_deriv
.ends second_deriv_tuned

.subckt ota_bandpass AGND LP_0.08 LP_0.5 V_Bias VDD V_BP
X§ota_core VDD LP_0.5 LP_0.08 V_Bias V_BP AGND ota_core
.ends ota_bandpass

.subckt precision_fullwave AGND V_bias Vdd Vin Vref V_rect
X§ota1 Vdd Vin Vref V_bias N001 AGND ota_core
X§ota2 Vdd Vref Vin V_bias N002 AGND ota_core
D1 N001 V_rect DRECT
D2 N002 V_rect DRECT
R1 V_rect Vref 1Meg
.model DRECT D(IS=1e-14)
.ends precision_fullwave

.subckt sample_and_hold AGND CLK_s V_bias V_filter Vdd V_held
M1 V_filter CLK_s N001 N001 SW_NMOS
X§ota_c Vdd N001 V_held V_bias V_held AGND ota_core
C1 N001 AGND 1p
.model SW_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.ends sample_and_hold

.subckt gated_integrator AGND RST V_bias VDD Vin Vref WINDOW V_energy
X§ota_c VDD Vin Vref V_bias N001 AGND ota_core
M1 N001 WINDOW V_energy V_energy SW_NMOS
M2 V_energy RST AGND AGND SW_NMOS
C1 V_energy AGND 50n
.model SW_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.ends gated_integrator

.subckt gated_peak AGND RST V_bias V_in Vdd WINDOW V_peak
X§ota_c Vdd N001 V_peak V_bias N002 AGND ota_core
D1 N002 V_peak DRECT
C1 V_peak AGND 1p
M1 V_peak RST AGND AGND RST_NMOS
M_GATE V_in WINDOW N001 N001 RST_NMOS
R1 N001 AGND 10Meg
.model DRECT D(IS=1e-14)
.model RST_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.ends gated_peak

.subckt gated_valley AGND RST V_bias VDD Vin WINDOW V_valley
X§ota_c VDD N002 V_valley V_bias N001 AGND ota_core
D1 V_valley N001 DRECT
C1 V_valley AGND 1p
M1 VDD RST V_valley V_valley RST_NMOS
M2 Vin WINDOW N002 N002 RST_NMOS
R1 N002 VDD 10Meg
.model DRECT D(IS=1e-14)
.model RST_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.ends gated_valley

.subckt qrs_amp AGND V_bias V_max V_min Vdd Vref V_amp
X§ota_c Vdd V_max V_min V_bias V_amp AGND ota_core
R1 V_amp Vref 1Meg
.ends qrs_amp

.subckt ota_core VDD V+ V- V_bias V_out AGND
M3 N001 N001 VDD VDD MY_PMOS W=20u L=1u
M4 V_out N001 VDD VDD MY_PMOS W=20u L=1u
M1 N001 V+ N002 N002 MY_NMOS W=10u L=1u
M2 V_out V- N002 N002 MY_NMOS W=10u L=1u
M5 N002 V_bias AGND AGND MY_NMOS W=2u L=10u
.model MY_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.model MY_PMOS PMOS (Level=1 VTO=-0.4 KP=25u LAMBDA=0.05)
.ends ota_core

.subckt hp_deriv AGND V_bias Vdd Vin Vref V_out
X§ota_core Vdd Vref V_out V_bias V_out AGND ota_core
C1 Vin V_out 29n
.ends hp_deriv

.model D D
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 550m 0 10u
.backanno
.end
