* C:\Users\kadhi\OneDrive\Desktop\amux\verilogLearning\Leaky-Integrate-Fire---SNN-model-on-FPGA\LTSpice_sim\full_frontend\normalizer_test.asc
* Generated by LTspice 26.0.2 for Windows.
V_Bias N001 0 0.65V
VDD N004 0 1.88V
Vref N005 0 0.9V
V_mean N003 0 0.857V
V_feature N002 0 0.9V
X§X1 0 N001 N002 N003 N004 N005 v_norm normalizer

* block symbol definitions
.subckt normalizer AGND V_bias V_feature V_mean VDD Vref V_norm
X§ota_5t AGND V_bias VDD N001 N002 V_norm ota_5t
R1 N002 V_feature {Rin}
R2 N002 Vref {Rfb}
R3 N001 V_mean {Rin}
R4 V_norm N001 {Rfb}
.param Rin=1Meg Rfb=3.62Meg
.ends normalizer

.subckt ota_5t AGND V_bias VDD Vn Vp V_out
M1 N001 Vp N002 N002 NMOS_OTA W=10u L=1u
M2 V_out Vn N002 N002 NMOS_OTA W=10u L=1u
M3 N001 N001 VDD VDD PMOS_OTA W=20u L=1u
M4 V_out N001 VDD VDD PMOS_OTA W=20u L=1u
M5 N002 V_bias AGND AGND NMOS_OTA W=2u L=10u
.model NMOS_OTA NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05 W=10u L=1u)
.model PMOS_OTA PMOS (Level=1 VTO=-0.4 KP=25u LAMBDA=0.05 W=20u L=1u)
.ends ota_5t

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.backanno
.end
