* C:\Users\kadhi\OneDrive\Desktop\amux\verilogLearning\Leaky-Integrate-Fire---SNN-model-on-FPGA\LTSpice_sim\highpass\ota_c_highpass_slow.asc
* Generated by LTspice 26.0.2 for Windows.
X§X1 0 N001 N002 N003 N004 V_out ota_c_highpass
Vdd N002 0 1.88V
Vin N003 0 0.9V AC 1
Vref N004 0 0.9V
V_bias N001 0 0.43V

* block symbol definitions
.subckt ota_c_highpass AGND V_bias Vdd Vin Vref V_out
X§ota_core Vdd Vref V_out V_bias V_out AGND ota_core
C1 Vin V_out 50n
.ends ota_c_highpass

.subckt ota_core VDD V+ V- V_bias V_out AGND
M3 N001 N001 VDD VDD MY_PMOS W=20u L=1u
M4 V_out N001 VDD VDD MY_PMOS W=20u L=1u
M1 N001 V+ N002 N002 MY_NMOS W=10u L=1u
M2 V_out V- N002 N002 MY_NMOS W=10u L=1u
M5 N002 V_bias AGND AGND MY_NMOS W=2u L=10u
.model MY_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.model MY_PMOS PMOS (Level=1 VTO=-0.4 KP=25u LAMBDA=0.05)
.ends ota_core

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 10 1 1Meg
.nodeset V(vout)=0.9
.backanno
.end
