* C:\Users\kadhi\OneDrive\Desktop\amux\verilogLearning\Leaky-Integrate-Fire---SNN-model-on-FPGA\LTSpice_sim\ota_testbench.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N005 0 1.88V
V2 N002 0 0.9V
V3 N004 0 0.6V
V+ N001 0 0.9
X§X1 0 N001 N002 N004 N005 N003 ota_core

* block symbol definitions
.subckt ota_core AGND V+ V- V_bias VDD V_out
M3 VDD N001 N001 N001 PMOS W=20u L=1u
M4 VDD N001 V_out V_out PMOS W=20u L=1u
M1 N001 V+ N002 N002 NMOS W=10u L=1u
M2 V_out N002 V- V- NMOS W=10u L=1u
M5 N002 V_bias AGND AGND NMOS W=2u L=10u
.model MY_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.model MY_PMOS PMOS (Level=1 VTO=-0.4 KP=25u LAMBDA=0.05)
.ends ota_core

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V+ 1V 01.2V 0.0005V
.backanno
.end
