* C:\Users\kadhi\OneDrive\Desktop\amux\verilogLearning\Leaky-Integrate-Fire---SNN-model-on-FPGA\LTSpice_sim\sample_and_hold\sample_and_hold_test.asc
* Generated by LTspice 26.0.2 for Windows.
X§sample_and_hold 0 N001 N002 N003 N004 V_held sample_and_hold
V§CLK_s N001 0 PULSE(0 1.88 0 1n 1n 1m 22.222m)
V_bias N002 0 0.65V
V_filter N003 0 SINE(0.9 0.1 50)
Vdd N004 0 1.88V

* block symbol definitions
.subckt sample_and_hold AGND CLK_s V_bias V_filter Vdd V_held
M1 V_filter CLK_s N001 N001 SW_NMOS
X§ota_c Vdd N001 V_held V_bias V_held AGND ota_core
C1 N001 AGND 1p
.model SW_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.ends sample_and_hold

.subckt ota_core VDD V+ V- V_bias V_out AGND
M3 N001 N001 VDD VDD MY_PMOS W=20u L=1u
M4 V_out N001 VDD VDD MY_PMOS W=20u L=1u
M1 N001 V+ N002 N002 MY_NMOS W=10u L=1u
M2 V_out V- N002 N002 MY_NMOS W=10u L=1u
M5 N002 V_bias AGND AGND MY_NMOS W=2u L=10u
.model MY_NMOS NMOS (Level=1 VTO=0.4 KP=50u LAMBDA=0.05)
.model MY_PMOS PMOS (Level=1 VTO=-0.4 KP=25u LAMBDA=0.05)
.ends ota_core

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kadhi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 200m
.backanno
.end
